US05556941
2- N-(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-4-N-(β-D-galactopyranosyl)-L-asparaginyl-4-amidino-D-phenylalanine-piperidide hydrochloride (Compound 41)
2-N-(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-L-asparaginyl-4-amidino-D-phenylalanine-piperidide hydrochloride (1.0 g), HOBt (0.23 g) and DCCI (0.37 g) were dissolved in DMF and dichloromethane 1:1 (50 mL) and, after 0.5 h of stirring, β-D-galactopyranosyl-amine (1.0 g) was added. The reaction mixture was stirred for 48 h at room temperature and then filtered and concentrated by evaporation in vacuo. The residue was dissolved in ethyl acetate and washed with water. The crude product was purified by column chromatography on silica gel with chloroform/methanol 5:1. Yield: 1.2 g. TLC analysis: Rf=0.73 (chloroform/methanol 3:1). Barium oxide (0.25 g) was added to a solution of the intermediate compound (1.2 g) in chloroform/methanol 2:1 (100 mL), and the mixture was stirred for 2 h and then filtered. The flitrate was neutralized with methanolic HCl and concentrated by evaporation in vacuo. The residue was purified by column chromatography (Sephadex LH 20). Yield: 1.0 g. TLC analysis: Rf=0.042 (chloroform/methanol 3:1). [α]D +19.3° (c=1 in methanol). M.p. 186°-190° C.

reactant | 2-N-(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-L-asparaginyl-4-amidino-D-phenylalanine-piperidide hydrochloride | 1.0 g | Cl.COC1=C(C(=C(C(=C1)C)S(=O)(=O)N[C@@H](CC(N)=O)C(=O)N[C@H](CC1=CC=C(C=C1)C(N)=N)C(=O)N1CCCCC1)C)C
reactant | HOBt | 0.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 0.37 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | β-D-galactopyranosyl-amine | 1.0 g | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)N | C6H13NO5
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2- N-(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-4-N-(β-D-galactopyranosyl)-L-asparaginyl-4-amidino-D-phenylalanine-piperidide hydrochloride | Cl.COC1=C(C(=C(C(=C1)C)S(=O)(=O)N[C@@H](CC(N[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)=O)C(=O)N[C@H](CC1=CC=C(C=C1)C(N)=N)C(=O)N1CCCCC1)C)C | InChI=1S/C35H50N6O11S.ClH/c1-18-14-25(51-4)19(2)20(3)31(18)53(49,50)40-23(16-27(43)39-34-30(46)29(45)28(44)26(17-42)52-34)33(47)38-24(35(48)41-12-6-5-7-13-41)15-21-8-10-22(11-9-21)32(36)37;/h8-11,14,23-24,26,28-30,34,40,42,44-46H,5-7,12-13,15-17H2,1-4H3,(H3,36,37)(H,38,47)(H,39,43);1H/t23-,24+,26+,28-,29-,30+,34+;/m0./s1
